US07060827B2
In a manner analogous to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 2,3-dihydro-1,4-benzodioxin-6-ylmethylamine gave N2-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3) δ 4.24 (s, 4 H), 4.45 (d, J=6.0 Hz, 2 H), 6.55 (ddd, J=0.9, 2.4 and 8.4 Hz, 1 H), 6.66 (d, 1 H), 6.84 (m, 4 H), 6.90 (m, 1 H), 7.14 (t, J=8.1 Hz, 1 H), 7.30 (m, 1 H), 7.86 (d, J=3.3 Hz, 1 H); 19F NMR (282 MHz, CDCl3) δ −170.44; LCMS: ret. time: 18.33 min.; purity: 96.75%; MS (m/e): 369.03 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 2,3-dihydro-1,4-benzodioxin-6-ylmethylamine | O1CCOC2=C1C=CC(=C2)CN | C9H11NO2
product | N2-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | O1CCOC2=C1C=CC(=C2)CNC2=NC=C(C(=N2)NC2=CC(=CC=C2)O)F | C19H17FN4O3
